US05811387
Isobutylamine (50 mL, 0.5 mol) was cooled in an ice bath, and bromoacetic acid (6.1 g, 43.9 mmol) added slowly as a solid, insuring that each piece dissolved. After stirring overnight, the excess amine was removed and MeOH was added to the resulting oil. The resulting mixture was concentrated, and repeated using MeOH/HCl. Finally, a white solid was recrystallized from ethanol/ether to provide N-isobutylglycine.HCl (3.95 g, 53.7%).

reactant | Isobutylamine | 0.5 mol, 50 mL | C(C(C)C)N | C4H11N
reactant | bromoacetic acid | 43.9 mmol, 6.1 g | BrCC(=O)O | C2H3BrO2
product | N-isobutylglycine | C(C(C)C)NCC(=O)O | C6H13NO2
